US04824951
2-(4-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-propanamide hydrochloride [1:1].
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (5.0 g, 0.0166 mole), 1,1'-carbonylidiimidazole (3.21 g, 0.0198 mo;le) and dry tetrahydrofuran (100 ml) was stirred at room temperature for one hour with nitrogen bubbling through it and then refluxed for one hour under a nitrogen atmosphere. The solution which had formed was cooled and a solution of dimethylamine in tetrahydrofuran (21.4 ml of 2.3M solution, 0.05 mole) was added. The reaction mixture was stirred at room temperature under nitrogen overnight. The solvent was removed under reduced pressure and the resulting oil was partitioned between water (100 ml) and ethyl acetate (100 ml). The layers were separated and the suspended solid was removed by filtration. The aqueous layer was extracted once more with ethyl acetate (100 ml) and the combined organic layer was washed once with a 5% potassium hydroxide solution (100 ml). The organic layer was dried over sodium sulfate, filtered, and evaporated under reduced pressure to give 6.3 g of crude product. Attempts to crystallize the pure free base failed (due to imidazole contamination and trapping of solvents by the solid). The impure product, after triturations in water to remove imidazole, was dissolved in hot isopropyl alcohol, filtered while hot and acidified with hydrogen chloride in isopropyl alcohol. Isopropyl ether was added to precipitate the solid. Filtration and drying under high vacuum gave 1.84 g of the title compound, mp. 203°-205° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.05 mole, 2.3M, 21.4 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-propanamide hydrochloride | 1.84 g | Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)N(C)C | InChI=1S/C17H17ClN4O.ClH/c1-21(2)15(23)9-11-22-16(12-5-7-13(18)8-6-12)20-14-4-3-10-19-17(14)22;/h3-8,10H,9,11H2,1-2H3;1H
